US07728014B2
1-(2-p-Tolylethynyl)benzene (Compound 1).
General Procedure A. To a solution of lithium phenylacetylide (15.2 ml, 15.2 mmol) in DME (20 ml) under Argon at −78° C. was added triisopropoxylborane (3.5 ml, 15.2 mmol). The mixture was stirred at −78° C. for 1.5 hours. A solution of 1-bromo-4-methylbenzene (2 g, 11.7 mmol) in DME/THF (10 ml/10 ml) was degassed with dry argon, Pd(PPh3)4 (405 mg, 0.35 mmol) was added and the solution was degassed for another 5 min.

reactant | lithium phenylacetylide | 15.2 mmol, 15.2 ml | [Li+].[C-]#CC1=CC=CC=C1
reactant | triisopropoxylborane | 15.2 mmol, 3.5 ml | O(C(C)C)B(OC(C)C)OC(C)C | C9H21BO3
reactant | 1-bromo-4-methylbenzene | 11.7 mmol, 2 g | BrC1=CC=C(C=C1)C | C7H7Br
solvent | DME | 20 ml | COCCOC | C4H10O2
solvent | DME THF | 10 ml | COCCOC.C1CCOC1
catalyst | Pd(PPh3)4 | 0.35 mmol, 405 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-p-Tolylethynyl)benzene | C1(=CC=C(C=C1)C#CC1=CC=CC=C1)C | C15H12
